US06936602B1
In THF (150 ml) was dissolved methyl 7-bromo-1-(t-butoxycarbonyl)-1,2,3,4-tetrahydro-1-benzazepin-5-one-4-carboxylate (7.2 g). To the solution was added sodium borohydride (0.7 g) at −40° C., and then was added dropwise methanol (15 ml). The mixture was stirred at −15° C. for 1 hour. To the mixture was added 1M citric acid, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and saturated brine and dried with anhydrous magnesium sulfate, and the solvent was evaporated. The residue was dissolved in THF (150 ml), and to the solution was added triethylamine (7.5 ml). To the mixture was added dropwise, under ice-cooling, methanesulfonyl chloride (2.1 ml). Under nitrogen atmosphere, the mixture was stirred at room temperature for 1.5 hours, and to the mixture was added dropwise DBU (13.5 ml) at room temperature. The mixture was stirred at 90° C. for 10 minutes, and the solvent was evaporated. To the residue was added water, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and saturated brine and dried with anhydrous magnesium sulfate, and the solvent was evaporated. The residue was purified with silica gel column chromatography (ethyl acetate/hexane) to give methyl 7-bromo-1-(t-butoxycarbonyl)-2,3-dihydro-1H-1-benzazepine-4-carboxylate (5.18 g) as colorless crystals.

reactant | methyl 7-bromo-1-(t-butoxycarbonyl)-1,2,3,4-tetrahydro-1-benzazepin-5-one-4-carboxylate | 7.2 g | BrC=1C=CC2=C(C(C(CCN2C(=O)OC(C)(C)C)C(=O)OC)=O)C1 | C17H20BrNO5
reactant | sodium borohydride | 0.7 g | [BH4-].[Na+]
reactant | methanol | 15 ml | CO | CH4O
reactant | citric acid | 1M | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | THF | 150 ml | C1CCOC1 | C4H8O
product | methyl 7-bromo-1-(t-butoxycarbonyl)-2,3-dihydro-1H-1-benzazepine-4-carboxylate | 5.18 g | BrC=1C=CC2=C(C=C(CCN2C(=O)OC(C)(C)C)C(=O)OC)C1 | C17H20BrNO4
